datasets/10k__Tet_Int.csv
SMILES Labelled
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)[H].[O-:21][H]>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])CCCCCC)[H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C(C)C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C(CC)[NH]1 10=20;20,21=21"
"[OH:10]C(CC)C(O)C([C:20]([H])=[OH+:21])[H]>>[OH:21][C:20]1([H])[OH+:10]C(CC)C(O)C1[H] 10=20;20,21=21"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CC)CCCCCC>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[OH:10]C(CC)C([H])/C(C)=C([H])\[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C([H])=C(C)C([H])C(CC)[OH+:10]1 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(C)[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C)[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[NH:10]([H])C([H])C([H])/C([H])=C([H])\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])=C([H])C([H])C([H])[NH+:10]1([H]) 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C([H])[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C([H])[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C([H])[NH][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C([H])[NH]1 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C(CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C)C(CC)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O]C(C)C([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C)C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])O[H])C1=CC=CC=C1.[O-:21]C1=CC=CC=C1>>CCN([C:20]([O-:10])(O[H])[O:21]C1=CC=CC=C1)C1=CC=CC=C1 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(CC)C(CC)[NH]2.C[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21][H])([NH]C)[O]CC.[Cl-]>>[Cl-].C[NH:10][H].[H][NH+:21]=[C:20]([NH]C)[O]CC 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])[H])CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])[H])[O-:10])CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[O]2.C[NH:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C(C)C(C)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[O]C(C)C(C)[S]1 10=20;20,21=21"
"[O:10]([Na])C([H])/C(O)=C([C:20](C)=[O:21])/C>>[O-:21][C:20]1(C)[O+:10]([Na])C([H])C(O)=C1C 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C)C.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C)C 21=20;20,10=10"
"CCCCCCC1C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CC>>CCCCCCC1C(O[C:20](=[O:10])N1C)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O:10]C(C)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH](C)[NH]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[O]CC 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)O[H])CC)CC>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])O[H])CC)CC 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C(CC)[O][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C)C)C.[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)C)C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[NH:10]([H])C(CC)C([H])C(O)C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C(O)C([H])C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C 21=20;20,10=10"
"[H][S:10]C(CC)C(C)C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"[OH:10]C([H])C([H])C(O)C(C)[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C(C)C(O)C([H])C([H])[OH+:10]1 10=20;20,21=21"
